US07893061B2
To a mixture of 5-ethynylpyrimidin-2-amine (0.023 g, 0.19 mmol), 3-iodo-4-methyl-1-(3-(trifluoromethyl)phenyl)pyridin-2(1H)-one (0.041 g, 0.11 mmol), copper(I) iodide (0.001 g, 0.0054 mmol), and Pd(PPh3)2Cl2 (0.004 g, 0.0054 mmol) was added MeCN (2 mL) and triethylamine (0.300 ml, 2.200 mmol). The mixture was heated to 80° C. in a resealable tube. After 16 hrs, the reaction mixture was diluted with EtOAc and washed with water and brine. After concentrating in vacuo, the crude residue was purified by silica gel chromatography using 30-100% hexanes:EtOAc to afford 3-((2-amino-5-pyrimidinyl)ethynyl)-4-methyl-1-(3-(trifluoromethyl)phenyl)-2(1H)-pyridinone as a white solid. Found M+H+=371.2.

reactant | 5-ethynylpyrimidin-2-amine | 0.19 mmol, 0.023 g | C(#C)C=1C=NC(=NC1)N | C6H5N3
reactant | 3-iodo-4-methyl-1-(3-(trifluoromethyl)phenyl)pyridin-2(1H)-one | 0.11 mmol, 0.041 g | IC=1C(N(C=CC1C)C1=CC(=CC=C1)C(F)(F)F)=O | C13H9F3INO
reactant | MeCN | 2 mL | CC#N | C2H3N
reactant | triethylamine | 2.200 mmol, 0.300 ml | C(C)N(CC)CC | C6H15N
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | copper(I) iodide | 0.0054 mmol, 0.001 g | [Cu]I
catalyst | Pd(PPh3)2Cl2 | 0.0054 mmol, 0.004 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-((2-amino-5-pyrimidinyl)ethynyl)-4-methyl-1-(3-(trifluoromethyl)phenyl)-2(1H)-pyridinone | NC1=NC=C(C=N1)C#CC=1C(N(C=CC1C)C1=CC(=CC=C1)C(F)(F)F)=O | C19H13F3N4O
